US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-[[4-(dimethylamino)piperidin-1-yl]carbonyl]ethenyl]-1H-indole (Example 44)
Under a nitrogen atmosphere dimethylaminopiperidine was dissolved in 3.0 ml of methylene chloride. To this solution were added 3-(2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indol-3-yl]prop-2-enoic acid (0.050 g, 0.1462 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.0356 g, 0.278 mmol). The resulting mixture was stirred at room temperature overnight.

reactant | dimethylaminopiperidine | CN(C)N1CCCCC1 | C7H16N2
reactant | 3-(2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indol-3-yl]prop-2-enoic acid | 0.1462 mmol, 0.050 g | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C=CC(=O)O)C)C=C1 | C19H16ClNO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.278 mmol, 0.0356 g | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
product | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-[[4-(dimethylamino)piperidin-1-yl]carbonyl]ethenyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C=CC(=O)N2CCC(CC2)N(C)C)C)C=C1 | C26H30ClN3O2
